US04801605
To a solution of ethyl 6-ethoxy-2-(ethoxycarbonylmethylthio)-phenylacetate (17.8 g) in ethanol (112 mL) is added a solution of potassium hydroxide (85%, 7.21 g) in water (28 mL). The solution is refluxed for 2 hours, is concentrated in vacuo to remove the ethanol, and is diluted with water (200 mL). Hydrochloric acid (12N, 10.0 mL) is added. The product which originally precipitates as an oil slowly crystallizes. After crystallization is complete the solid is filtered off, air-dried for 2 hours and then dried in vacuo at 50° to obtain 6-ethoxy-2-(carboxymethylthio)phenylacetic acid, m.p. 147°-150°.

reactant | ethyl 6-ethoxy-2-(ethoxycarbonylmethylthio)-phenylacetate | 17.8 g | C(C)OC1=CC=CC(=C1CC(=O)OCC)SCC(=O)OCC | C16H22O5S
reactant | potassium hydroxide | 7.21 g | [OH-].[K+]
solvent | ethanol | 112 mL | C(C)O | C2H6O
solvent | water | 28 mL | O | H2O
product | 6-ethoxy-2-(carboxymethylthio)phenylacetic acid | C(C)OC1=CC=CC(=C1CC(=O)O)SCC(=O)O | C12H14O5S
